US07622598B2
2,4-Dihydroxy-6-methylbenzaldehyde (91 mg, 0.60 mmol) described in M. M. Joullie et al., J. Org. Chem., 50, 3997 (1985), dodecanal (133 mg, 0.72 mmol) and calcium chloride dihydrate (59 mg, 0.40 mmol) were stirred in a 0.4 M potassium hydroxide methanol solution (2 ml) at 0° C. for 24 hours. The reaction mixture was made acidic with 1 M hydrochloric acid. After extractive workup with ethyl acetate, the crude product was purified by silica gel thin-layer chromatography (hexane:ethyl acetate=3:1) to obtain 2,4-dihydroxy-3-(1-hydroxydodecyl)-6-methylbenzaldehyde (58 mg, yield 28%).

reactant | 2,4-Dihydroxy-6-methylbenzaldehyde | 0.60 mmol, 91 mg | OC1=C(C=O)C(=CC(=C1)O)C | C8H8O3
reactant | dodecanal | 0.72 mmol, 133 mg | C(CCCCCCCCCCC)=O | C12H24O
reactant | calcium chloride dihydrate | 0.40 mmol, 59 mg | O.O.[Cl-].[Ca+2].[Cl-]
reactant | potassium hydroxide methanol | 0.4 M, 2 ml | CO.[OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
product | 2,4-dihydroxy-3-(1-hydroxydodecyl)-6-methylbenzaldehyde | 58 mg, yield 28% | OC1=C(C=O)C(=CC(=C1C(CCCCCCCCCCC)O)O)C | C20H32O4
